US04549988
8-Chloro-1-(2-fluorophenyl)-5-(1-phthalimido-2-propyn-3-yl)-3H-2-benzazepin
A mixture of 40 ml of 98% diethylamine, 50 ml of methylene chloride, 0.6 g (0.9 mmole) dichlorobis(triphenylphosphine)palladium (II), 0.15 g (0.8 mmole) cuprous iodide, 3.8 g (10.8 mmole) of 8-chloro-5-bromo-1-(2-fluorophenyl)-3H-2-benzazepine and 3 g (16 mmole) of propargyl phthalimide was stirred under nitrogen at room temperature for 24 hr. The mixture was concentrated at reduced pressure to dryness. The residue was dissolved in methylene chloride and washed with water. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to dryness. Purification of the residue by column chromatography (silica gel, 50 g; eluent, methylene chloride gradient to 5% ether in methylene chloride) gave as the major fraction a colorless solid. Recrystallization from ether gave colorless needles, mp 164°-165° C.

reactant | diethylamine | 40 ml | C(C)NCC | C4H11N
reactant | 8-chloro-5-bromo-1-(2-fluorophenyl)-3H-2-benzazepine | 10.8 mmole, 3.8 g | ClC1=CC2=C(C(=CCN=C2C2=C(C=CC=C2)F)Br)C=C1 | C16H10BrClFN
reactant | propargyl phthalimide | 16 mmole, 3 g | C(C#C)C1=C2C(C(=O)NC2=O)=CC=C1 | C11H7NO2
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.9 mmole, 0.6 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 8-Chloro-1-(2-fluorophenyl)-5-(1-phthalimido-2-propyn-3-yl)-3H-2-benzazepin | ClC1=CC2=C(C(=CCN=C2C2=C(C=CC=C2)F)C#CCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C27H16ClFN2O2
